US05532258
A suspension of 4-(3-acetylaminomethylphenyl)-2-thioureidothiazole (5.75 g) and methyl iodide (3.73 g) in methanol (100 ml) was refluxed for 2.5 hours. The solvent was removed under reduced pressure. The residue was crystallized from a mixture of methanol and ethyl acetate to afford 4-(3-acetylaminomethylphenyl)-2-(2-methyl-1-isothioureido)thiazole hydriodide (6.3 g).

reactant | 4-(3-acetylaminomethylphenyl)-2-thioureidothiazole | 5.75 g | C(C)(=O)NCC=1C=C(C=CC1)C=1N=C(SC1)NC(=S)N | C13H14N4OS2
reactant | methyl iodide | 3.73 g | CI | CH3I
solvent | methanol | 100 ml | CO | CH4O
product | 4-(3-acetylaminomethylphenyl)-2-(2-methyl-1-isothioureido)thiazole hydriodide | 6.3 g | I.C(C)(=O)NCC=1C=C(C=CC1)C=1N=C(SC1)NC(SC)=N | InChI=1S/C14H16N4OS2.HI/c1-9(19)16-7-10-4-3-5-11(6-10)12-8-21-14(17-12)18-13(15)20-2;/h3-6,8H,7H2,1-2H3,(H,16,19)(H2,15,17,18);1H
